US03976686
A stirred mixture of 1α,1,2,3,4,4α-hexahydro- 6-methoxy-7,8-dichlorofluoren-9-one (8.3 g., 0.029 mole), 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (20.5 g., 0.091 mole), benzene (300 ml.) and acetic acid (10 ml.) is heated at reflux under nitrogen for 64 hours. The reaction mixture is dissolved in a large volume of ethyl acetate (3 l.), the organic solution treated with sodium bisulfite solution, washed with water, 5% sodium hydroxide solution and water, separated, dried over magnesium sulfate and concentrated to give 1,2-dichloro-3-methoxyfluoren-9-one which after sublimation and trituration with acetonitrile give 3.9 g. melting at 268°-270°C.

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.091 mole, 20.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | ethyl acetate | 3 l | C(C)(=O)OCC | C4H8O2
product | 1,2-dichloro-3-methoxyfluoren-9-one | ClC1=C(C(=CC=2C3=CC=CC=C3C(C12)=O)OC)Cl | C14H8Cl2O2
